US05000775
Ethyl 2-[(2,6-dimethylphenyl)amino]-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 15, 4.84 g (0.04 mol) of 2,6-dimethyl aniline was added to a stirred solution of 75 ml toluene containing 4.87 g (0.02 mol) of 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate. The reaction mixture was stirred at reflux for 24 hours. The product was separated, distilled and then recrystallized from petroleum ether to yield 1.99 g of crystal product (m.p.=79°-81° C.) identified in Table I.

reactant | 2,6-dimethyl aniline | 0.04 mol, 4.84 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | toluene | 0.02 mol, 75 ml, 4.87 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate | ClC=1OC(=C(N1)C(F)(F)F)C(=O)[O-]
product | Ethyl 2-[(2,6-dimethylphenyl)amino]-4-(trifluoromethyl)-5-oxazolecarboxylate | 1.99 g | CC1=C(C(=CC=C1)C)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C15H15F3N2O3
